US07057046B2
(S)-4-(5-chloroindole-2-carbonylamino)-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one
A mixture of (S)-4-amino-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one hydrochloride (all of that prepared above), tetrahydrofuran (25 mL), 5-chloroindole-2-carboxylic acid (198 mg), 1-hydroxy-7-azabenzotriazole (150 mg), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (210 mg) was stirred at room temperature. Diisopropylethylamine (202 mg) was added, and after 16 h the resulting yellow solution was evaporated under vacuum. The residue was dissolved in ethyl acetate (150 mL), and this was washed sequentially with 1.0 M aqueous hydrochloric acid (50 mL twice), 1.0 M aqueous sodium hydroxide (50 mL), water (50 mL), and brine (25 mL), dried over anhydrous sodium sulfate, and evaporated under vacuum to provide crude product. The product was crystallized by dissolving in warm methanol (40 mL) and adding diethyl ether (100 mL). The crystals were filtered, washed with diethyl ether (30 mL twice), and dried under vacuum to provide the title compound (181 mg). HPLC/MS [M+H]+, 354.

reactant | (S)-4-amino-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one hydrochloride | Cl.N[C@@H]1C(NCC2=C(C1)C=CC=C2)=O
reactant | 5-chloroindole-2-carboxylic acid | 198 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-hydroxy-7-azabenzotriazole | 150 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 210 mg | Cl.CN(CCCN=C=NCC)C
reactant | Diisopropylethylamine | 202 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (S)-4-(5-chloroindole-2-carbonylamino)-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one | 181 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@@H]1C(NCC2=C(C1)C=CC=C2)=O | C19H16ClN3O2
